US08685969B2
3. (E)-5-(2-Methyl-4-nitro-5-(2-(pyrrolidin-1-yl)vinyl)phenoxy)pyrimidine
A solution of 5-(2,5-dimethyl-4-nitrophenoxy)pyrimidine (0.7243 g, 2.95 mmol), pyrrolidine (0.345 mL, 4.13 mmol) and DMF-DMA (0.551 mL, 4.13 mmol) in DMF (3.0 mL) under nitrogen was heated at 115° C. After 45 min, the reaction was cooled to room temperature and concentrated in vacuo, followed by a short-path distillation. The crude residue was used in the subsequent step.

reactant | 5-(2,5-dimethyl-4-nitrophenoxy)pyrimidine | 2.95 mmol, 0.7243 g | CC1=C(OC=2C=NC=NC2)C=C(C(=C1)[N+](=O)[O-])C | C12H11N3O3
reactant | pyrrolidine | 4.13 mmol, 0.345 mL | N1CCCC1 | C4H9N
reactant | DMF-DMA | 4.13 mmol, 0.551 mL | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | (E)-5-(2-Methyl-4-nitro-5-(2-(pyrrolidin-1-yl)vinyl)phenoxy)pyrimidine | CC1=C(OC=2C=NC=NC2)C=C(C(=C1)[N+](=O)[O-])\C=C\N1CCCC1 | C17H18N4O3
